US05070086
Dissolve 2,3-dihydro-10-phenyl-imidazo-[1,2-g][1,6]naphthyridin-5(1H)-one (2.63 g) in N,N-dimethylformamide (100 ml), and add the solution to a stirred suspension of dimethylformamide (25 ml) and sodium hydride (as a 60% dispersion in mineral oil). Use 0.25 g of the dispersion, and stir the resulting mixture for 1 hour at 25° C. Add methyl iodide (8.5 g), and stir for 15 hours, again at 25° C. Pour the mixture over ice and water (500 g), and extract with dichloromethane. Combine extracts, wash them with water and brine, dry them over magnesium or sodium sulfate, and concentrate them. Crystallize the residue from chloroform-acetone to obtain 2,3-dihydro-1-methyl-10-phenylimidazo[1,2-g]-[1,6]naphthyridin-5(1H)-one, mp 237°-240° C.

reactant | 2,3-dihydro-10-phenyl-imidazo-[1,2-g][1,6]naphthyridin-5(1H)-one | 2.63 g | C1(=CC=CC=C1)C1=C2N(C(C=3C=CC=NC13)=O)CCN2 | C16H13N3O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 8.5 g | CI | CH3I
reactant | water | 500 g | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-1-methyl-10-phenylimidazo[1,2-g]-[1,6]naphthyridin-5(1H)-one | CN1CCN2C(C=3C=CC=NC3C(=C21)C2=CC=CC=C2)=O | C17H15N3O
